US07777038B2
8-Methoxy-3,4-dihydro-1H-quinolin-2-one (15 g) was dissolved in DMF (150 ml), and 3.6 g of sodium hydride (60% in oil) was added under ice cooling. After the addition, stirring was carried out at room temperature until the generation of hydrogen stopped. The resulting mixture was cooled with ice water again, and 5.8 ml of methyl iodide was added dropwise, followed by stirring at room temperature overnight. The solvent was distilled off under reduced pressure, and the residue was purified by silica gel column chromatography to thereby obtain 16.7 g (yield: 96%) of 8-methoxy-1-methyl-3,4-dihydro-1H-quinolin-2-one.

reactant | 8-Methoxy-3,4-dihydro-1H-quinolin-2-one | 15 g | COC=1C=CC=C2CCC(NC12)=O | C10H11NO2
reactant | sodium hydride | 3.6 g | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | methyl iodide | 5.8 ml | CI | CH3I
solvent | DMF | 150 ml | CN(C)C=O | C3H7NO
product | 8-methoxy-1-methyl-3,4-dihydro-1H-quinolin-2-one | 16.7 g, yield: 96% | COC=1C=CC=C2CCC(N(C12)C)=O | C11H13NO2
